US05840911
1-[4-(N-Hydroxyamidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(2-naphthyl)-imidazole dihydrochloride
7 ml of concentrated hydrochloric acid are added, with stirring, to a mixture of 2.01 g (9.8 mmol) of 4-(N-hydroxyarnidino)-2,3-dihydro-1H-inden-1-one oxime, 2.2 g (9.8 mmol) of 1,2-diamino-4-(2-naphthyl)-imidazole (see J. Heterocycl. Chem. 11, 327-329 (1974)) and 25 ml of isopropanol, and the mixture is stirred at 120° C. for 24 hours. The mixture is cooled to 20° C., filtered and washed with isopropanol, and the filtration product is taken up in 60 ml of methylene chloride. The suspension is stirred at room temperature for 15 hours and is then filtered, and the crystallizate is washed with methylene chloride. In that manner there is obtained the title compound, m.p. 265°-270° C., 1H-NMR (DMSO/D2O): δ=8.32 (s, 1H); 8.29 (d, 1H); 8.19 (s, 1H); 8.04 (d, 1H); 7.88-7.98 (m, 3H); 7.81 (d, 1H); 7.53-7.68 (m, 3H); 3.38 (s, 4H).

reactant | hydrochloric acid | 7 ml | Cl | ClH
reactant | 4-(N-hydroxyarnidino)-2,3-dihydro-1H-inden-1-one oxime | 9.8 mmol, 2.01 g | ONC(=N)C1=C2CCC(C2=CC=C1)=NO | C10H11N3O2
reactant | 1,2-diamino-4-(2-naphthyl)-imidazole | 9.8 mmol, 2.2 g | NN1C(=NC(=C1)C1=CC2=CC=CC=C2C=C1)N | C13H12N4
solvent | isopropanol | 25 ml | C(C)(C)O | C3H8O
product | 1-[4-(N-Hydroxyamidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(2-naphthyl)-imidazole dihydrochloride | Cl.Cl.ONC(=N)C1=C2CCC(C2=CC=C1)=NN1C(=NC(=C1)C1=CC2=CC=CC=C2C=C1)N | InChI=1S/C23H20N6O.2ClH/c24-22(28-30)19-7-3-6-18-17(19)10-11-20(18)27-29-13-21(26-23(29)25)16-9-8-14-4-1-2-5-15(14)12-16;;/h1-9,12-13,30H,10-11H2,(H2,24,28)(H2,25,26);2*1H
